Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
PROSTATE CANCER
 
Major Surgical or Invasive Procedure:
ROBOTIC ASSISTED LAPAROSCOPIC PROSTATECTOMY
 
History of Present Illness:
Mr. ___ is a very pleasant ___ year old man with a history 
of a PSA of 5.6. He underwent prostate biopsy on ___, which 
showed ___ 3+3=6  
 prostate cancer in 8 cores and ___ 3+4 prostate cancer in 1 
core. A total of 20 cores were sampled. MRI was performed on 
___, and actually showed a lesion on the left rather than 
the right. 

 
Past Medical History:
PMH:  
 Hypercholesterolemia  
Erectile dysfunction
prostate cancer
 PSH:  
 Achilles tendon surgery  
 Knee surgery  

 
Social History:
___
Family History:
Notable for a brother who was diagnosed with prostate cancer 
___ years ago and had cryoablation in ___.
 
Physical Exam:
WDWN, NAD, AVSS
Abdomen soft, non-distended, appropriately tender along incision 
sites
Incisions C/D/I
JP drain has been removed. 
Foley in place, secured to medial thigh. 
Bilateral lower extremities w/out edema, pitting or pain to deep 
palpation of calves

 
Pertinent Results:
___ 06:40AM BLOOD WBC-9.7# RBC-4.14* Hgb-13.2* Hct-38.8* 
MCV-94 MCH-31.9 MCHC-34.0 RDW-12.2 RDWSD-42.3 Plt ___

___ 06:40AM BLOOD Glucose-99 UreaN-14 Creat-0.8 Na-138 
K-4.1 Cl-104 HCO3-27 AnGap-11
 
Brief Hospital Course:
Mr. ___ was admitted to the Urology Service after 
undergoing robotic assisted laparoscopic prostatectomy. No 
concerning intra-operative events occurred; please see dictated 
operative note for full details. Mr. ___ received 
___ antibiotic prophylaxis.  At the end of the 
procedure the patient was extubated and transported to the PACU 
for further recovery before being transferred to the floor.  He 
was transferred from the PACU in stable condition. On POD0, pain 
was well controlled on PCA, hydrated with intravenous fluids for 
urine output >30cc/hour, provided with pneumoboots and incentive 
spirometry for prophylaxis, and he ambulated once. On POD1, Mr. 
___ was restarted on home medications, basic metabolic 
panel and complete blood count were checked, pain control was 
transitioned from PCA to oral analgesics, diet was advanced to a 
clears/toast and crackers diet for breakfast and lunch.  Diet 
was advanced to regular after lunch and with further ambulation, 
the ___ drain was removed.  Foley catheter care and leg bag 
teaching was provided by nursing. The remainder of the hospital 
course was unremarkable. Mr. ___ was discharged in stable 
condition, eating well, ambulating independently, and with pain 
control on oral analgesics. On exam, incision was clean, dry, 
and intact, with no evidence of hematoma collection or 
infection. Mr. ___ and his wife were given explicit 
instructions to follow-up in one week for post-operative 
evaluation and trial of voiding and all of their questions were 
answered. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 10 mg PO QPM 
2. PrevACID (lansoprazole) 30 mg oral DAILY:PRN dyspepsia 
3. Aspirin EC 81 mg PO DAILY 
4. Fish Oil (Omega 3) 1000 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN pain, fever>100  
2.  Bacitracin Ointment 1 Appl TP TID  
3.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 2 Doses 
TAKE AM & ___, 12HRS APART, ON DATE OF VOID TRIAL 
RX *ciprofloxacin HCl 500 mg ONE tablet(s) by mouth twice a day 
Disp #*2 Tablet Refills:*0 
4.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg ONE capsule(s) by mouth 
twice a day Disp #*60 Capsule Refills:*0 
5.  Ibuprofen 600 mg PO Q8H:PRN Pain - Moderate 
RX *ibuprofen 600 mg ONE tablet(s) by mouth Q6HRS Disp #*30 
Tablet Refills:*0 
6.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg one tablet(s) by mouth q4hrs Disp #*30 Tablet 
Refills:*0 
7.  Scopolamine Patch 1 PTCH TD ONCE Duration: 72 Hours  
8.  Aspirin EC 81 mg PO DAILY  
9.  Atorvastatin 10 mg PO QPM  
10.  Fish Oil (Omega 3) 1000 mg PO DAILY  
11.  PrevACID (lansoprazole) 30 mg oral DAILY:PRN dyspepsia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PROSTATE CANCER
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
-Please also reference the additional handout provided by Dr. 
___ with instructions and information about your surgery and 
post-operative plan of care.

-Please also reference the instructions provided by nursing on 
Foley catheter care, hygiene and waste elimination. 

-ALWAYS follow-up with your referring provider ___ your PCP 
to discuss and review your post-operative course and 
medications.  Any NEW medications should also be reviewed with 
your pharmacist.

-Resume your pre-admission medications except as noted AND you 
note that you NO longer need to take medications that shrink 
your prostate (Hytrin, Avodart, Flomax, etc.)

-You may take ibuprofen and the prescribed narcotic together for 
pain control. FIRST, use Tylenol and Ibuprofen. Replace Tylenol 
with prescribed narcotic (examples: Vicodin, Percocet) for break 
through pain that is >4 on the pain scale.

-The maximum dose of Tylenol (ACETAMINOPHEN) is 4 grams (from 
ALL sources) PER DAY.

-The prescribed pain medication may also contain 
Tylenol/acetaminophen so this needs to be considered when 
monitoring your daily dose and maximum.

-Ibuprofen should always be taken with food. If you develop 
stomach pain or note black stool, stop the Ibuprofen.  Ibuprofen 
works best when taken “around the clock.”

-For your safety and the safety of others; PLEASE DO NOT drive, 
operate dangerous machinery, or consume alcohol while taking 
narcotic pain medications. 

-Do NOT drive while Foley catheter is in place.

-Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication. 
Discontinue if loose stool or diarrhea develops. Colace is a 
stool softener--it is NOT a laxative.

-You may shower 2 days after surgery, but do not tub bathe, 
swim, soak, or scrub incision for 2 weeks

-If you had a drain removed from your abdomen, bandage strips 
called “steristrips” have been applied to close the wound. Allow 
these bandage strips to fall off on their own ___ days).  
PLEASE REMOVE any remaining dressings w/ gauze within 2 days of 
discharge.  You may get the steristrips wet.

-No heavy lifting for 4 weeks (no more than 10 pounds). Light 
household chores are generally “ok”.  Fold laundry but ___ 
lift it. Wash/Dry dishes. Do not Vacuum. 

-___ medical attention for fevers (temp>101.5), worsening pain, 
drainage or excessive
bleeding from incision, chest pain or shortness of breath.

-Your Foley should be secured to the catheter secure on your 
thigh at ALL times until your follow up with the surgeon.

-Follow up in 1 week for wound check and Foley removal. DO NOT 
allow anyone that is outside of the urology team remove your 
Foley for any reason.

-Wear Large Foley bag for majority of time; the leg bag is only 
for short-term when leaving the house, etc.

-Take prescribed antibiotic for Foley catheter removal as 
directed

-resume regular home diet and remember to drink plenty of fluids 
to keep hydrated and to minimize risk of constipation. For the 
first few days at home, you should eat SMALL PORTIONS.  Avoid 
high fat, bulky or fried foods. 

-___ medical attention for fevers (temp>101.5), worsening pain, 
drainage or excessive bleeding from incision, chest pain or 
shortness of breath.
 
Followup Instructions:
___